US04143144
To 5.5 grams (0.115 mole) of hexane washed sodium hydride in 100 mls of dimethoxyethane was added over a 25 minute period, 11.28 grams (0.115 mole) of 2-(hydroxymethyl)furan dissolved in 30 mls of dimethoxyethane. An additional 25 mls of dimethoxyethane was added and the mixture heated to 50° C. for about 10 minutes. To this mixture was added 26.54 grams (0.1 mole) of 2,6-dichloro-4-(trichloromethyl)pyridine dissolved in 100 mls of dimethoxyethane. The mixture was heated under reflux (83° C.) for about 2.5 hours and the reaction mixture added to 600 mls of water and extracted with methylene chloride. The methylene chloride was evaporated from the extract leaving a black oil. This oil was distilled under reduced pressure to obtain 19.05 grams of the desired 2-chloro-6-(2-furanylmethoxy)-4-(trichloromethyl)pyridine product. The product, an oil, had a refractive index of n 25/d = 1.5722 and upon analysis was found to have carbon, hydrogen, nitrogen and chlorine contents of 41.19, 2.50, 4.23 and 42.49 percent, respectively, as compared with the theoretical contents of 40.40, 2.16, 4.28 and 43.37 percent, respectively, as calculated for the above named compound.

reactant | hexane | 0.115 mole, 5.5 grams | CCCCCC | C6H14
reactant | sodium hydride | [H-].[Na+]
reactant | 2-(hydroxymethyl)furan | 0.115 mole, 11.28 grams | OCC=1OC=CC1 | C5H6O2
reactant | 2,6-dichloro-4-(trichloromethyl)pyridine | 0.1 mole, 26.54 grams | ClC1=NC(=CC(=C1)C(Cl)(Cl)Cl)Cl | C6H2Cl5N
solvent | dimethoxyethane | 100 mls | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 30 mls | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 100 mls | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 25 mls | C(OC)COC | C4H10O2
solvent | water | 600 mls | O | H2O
product | 2-chloro-6-(2-furanylmethoxy)-4-(trichloromethyl)pyridine | 19.05 grams | ClC1=NC(=CC(=C1)C(Cl)(Cl)Cl)OCC=1OC=CC1 | C11H7Cl4NO2
